US07235555B2
CuCl2 (8.0 g, 0.06 mol) and tert-butyinitrile (8.9 mL, 0.074 mol) are suspended in acetonitrile (60 mL). 1,1-dichloroethylene is added dropwise at 20° C. 5-Bromo-2-chloro-3-methyl -phenylamine (11.0 g, 0.05 mol), dissolved in acetonitrile (60 mL), is added and the reaction is stirred at RT for 3 h. The mixture is poured into aqueous 20% HCl (150 mL) and the aqueous phase is extracted with CH2Cl2 (2×150 mL). The organic phase is dried over Na2SO4 and the solvent is evaporated. The residue is purified by FCC (hexane/CH2Cl2 9:1) to afford 5-bromo-2-chloro-1 -methyl-3-(2,2,2-trichloro-ethyl)-benzene. The intermediate is redissolved in MeOH (80 mL) and heated to 70° C. A solution of 5.4 M NaOMe in MeOH (28.4 mL) is added dropwise and the reaction is stirred at 70° C. for 3 h. The reaction is cooled to RT and concentrated H2SO4 (10 mL) is added. The reaction is stirred at reflux for 1 h. The mixture is diluted with H2O (200 mL) and extracted with CH2Cl2 (2×200 mL). The combined organic phases are dried over Na2SO4 and the solvent is evaporated. The residue is purified by FCC (hexane/CH2Cl2 9:1 to 1:1) to afford (5-bromo-2-chloro-3-methyl-phenyl) -acetic acid methyl ester. 1H NMR (CDCl3,400 MHz) δ 2.26 (s, 3H), 3.61 (s, 3H), 3.63 (s, 2H), 7.15 (s, 1H), 7.21 (s, 1H).

reactant | 1,1-dichloroethylene | ClC(=C)Cl | C2H2Cl2
reactant | 5-Bromo-2-chloro-3-methyl -phenylamine | 0.05 mol, 11.0 g | BrC=1C=C(C(=C(C1)N)Cl)C | C7H7BrClN
reactant | HCl | 150 mL | Cl | ClH
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 5-bromo-2-chloro-1 -methyl-3-(2,2,2-trichloro-ethyl)-benzene | BrC=1C=C(C(=C(C1)C)Cl)CC(Cl)(Cl)Cl | C9H7BrCl4
